US04182757
3.6 g of D-glucose, 2.5 g of n-hexylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 5-(1). 6.8 g of 1-(2-chloroethyl)-3-n-hexyl-3-D-glucopyranosylurea are thereby obtained as brownish caramel.

reactant | D-glucose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | n-hexylamine | 2.5 g | C(CCCCC)N | C6H15N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-n-hexyl-3-D-glucopyranosylurea | 6.8 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCCCCC | C15H29ClN2O6
